US04931444
A mixture of 10.6 parts of N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-5-methyl-1,3,4-thiadiazol-2-amine, 0.5 parts of bromoethane, 4 parts of sodium hydroxide pellets and 188 parts of N,N-dimethylformamide was stirred for 4 hours at 40°-50° C. After the addition of water, the crystallized product was filtered off and purified by column chromatography over silica gel using a mixture of trichloromethane, methanol, ethyl acetate and hexane (48:2:30:20 by volume) as eluent. The first fraction was collected and the eluent was evaporated. The residue was crystallized from 4-methyl-2-pentanone. The product was filtered off and dried, yielding 2.9 parts (25.3%) of N-(3-ethyl-5-methyl-1,3,4-thiadiazol-2(3H)-ylidene)-4-[4-(4-methoxyphenyl)-1-piperazinyl]benzenamine; mp. 175.4° C. (int. 14). The second fraction was collected and the eluent was evaporated. The residue was crystallized from 4-methyl-2-pentanone. The product was filtered off and dried, yielding 6.5 parts (56.7%) of N-ethyl-N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-5-methyl-1,3,4-thiadiazol-2-amine; mp. 186.8° C. (int. 15).

reactant | N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-5-methyl-1,3,4-thiadiazol-2-amine | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)NC=1SC(=NN1)C | C20H23N5OS
reactant | bromoethane | BrCC | C2H5Br
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(3-ethyl-5-methyl-1,3,4-thiadiazol-2(3H)-ylidene)-4-[4-(4-methoxyphenyl)-1-piperazinyl]benzenamine | 25.3% | C(C)N1C(SC(=N1)C)=NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OC | C22H27N5OS
